US07696213B2
To a mixture of the 2-amino-4-chloro-6-methylpyrimidine (5.00 g, 34.8 mmol) in dichloromethane (240 mL) was added bromine (1.88 mL, 36.6 mmol). The resulting suspension was stirred at room temperature for 1.5 hours. The mixture was diluted with dichloromethane (1.3 L) and washed with saturated sodium bicarbonate (2×200 mL) and brine (200 mL), dried (MgSO4), filtered and concentrated to afford 5-bromo-4-chloro-6-methylpyrimidin-2-amine (7.5 g, 97%).

reactant | 2-amino-4-chloro-6-methylpyrimidine | 34.8 mmol, 5.00 g | NC1=NC(=CC(=N1)Cl)C | C5H6ClN3
reactant | bromine | 36.6 mmol, 1.88 mL | BrBr | Br2
solvent | dichloromethane | 240 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1.3 L | ClCCl | CH2Cl2
product | 5-bromo-4-chloro-6-methylpyrimidin-2-amine | 7.5 g, 97% | BrC=1C(=NC(=NC1C)N)Cl | C5H5BrClN3
